* This model was developed for Texas Instruments Incorporated by:
*
*   AEi Systems, LLC
*   5777 W. Century Blvd., Suite 876
*   Los Angeles, California  90045
*
* This model is subject to change without notice. Neither Texas Instruments Incorporated 
* nor AEi Systems is responsible for updating this model.
* For more information regarding modeling services, model libraries and simulation 
* products, please call AEi Systems at (310) 216-1144, or contact AEi Systems by email: 
* info@AENG.com. Or visit AEi Systems on the web at http://www.AENG.com.
*
*1/15/08: TI version
* Added: FDS4685, grd, legd 
*$
.SUBCKT FDC654P_AEI 10 20 30
*     TERMINALS:     D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  28.9m
RS  40  3  2.57m
RG  20  2  41.7
CGS  2  3  259p
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  501p
R1  13  0  1.00
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1.00
D2  15  0  DLIM
DSD  10 3  DSUB
LS  30 40  2.50n
.MODEL DMOS PMOS(LEVEL=3 VMAX=62.5k THETA=58.1m
+ ETA=2.00m VTO=-1.9 KP=18.9
.MODEL DCGD D (CJO=501p VJ=0.600 M=0.680
.MODEL DSUB D (IS=14.9n N=1.50 RS=13.9m BV=30.0
+ CJO=189p VJ=0.800 M=0.420 TT=207n
.MODEL DLIM D (IS=100U)
.ENDS
*$
.MODEL Zener1 D BV=6.95 IBV=1u RS=40k
*$
.MODEL Zener2 D BV=8.3 IBV=10u N=1 RS=0
*$
.MODEL Z12V D(RS=6.0855 BV=11.937 CJO=670.52P TT=20N N=2 IS=1E-9 IBV=10.417M)
*$
* Start new parts:
*FDS4685 at Temp. Electrical Model 
*-----------------------------------------------------
.SUBCKT FDS4685 20 10 30 50
*20=DRAIN 10=GATE 30=SOURCE 50=VTEMP
Rg 10 11x 1
Rdu 12x 1 1u
M1 2 1 4x 4x DMOS L=1u W=1u
.MODEL DMOS PMOS(VTO=-1.7 KP=2.6E+1
+THETA=.1 VMAX=5.5E5 LEVEL=3)
Cgs 1 5x 1736p
Rd 20 4 6E-3 
Dds 4 5x DDS
.MODEL DDS D(M=5.1E-1 VJ=1.03E-1 CJO=570p)
Dbody 20 5x DBODY
.MODEL DBODY D(IS=2.86E-13 N=0.932967 RS=1.3E-4 TT=12.41n)
Ra 4 2 6E-3
Rs 5x 5 0.5m
Ls 5 30 0.5n
M2 1 8 6 6 INTER
E2 8 6 4 1 2
.MODEL INTER PMOS(VTO=0 KP=10 LEVEL=1)
Cgdmax 7 4 1329p
Rcgd 7 4 10meg
Dgd 4 6 DGD
Rdgd 4 6 10meg
.MODEL DGD D(M=2.69E-1 VJ=8.56E-3 CJO=1329p)
M3 7 9 1 1 INTER
E3 9 1 4 1 -2
*ZX SECTION
EOUT 4x 6x poly(2) (1x,0) (3x,0) 0 0 0 0 1
FCOPY 0 3x VSENSE 1
RIN 1x 0 1G
VSENSE 6x 5x 0
RREF 3x 0 10m
*TEMP SECTION
ED 101 0 VALUE {V(50,100)}
VAMB 100 0 25
EKP 1x 0 101 0 .012
*VTO TEMP SECTION
EVTO 102 0 101 0 .005
EVT 11x 12x 102 0 1
*DIODE THEMO BREAKDOWN SECTION
EBL VB1 VB2 101 0 .08
VBLK VB2 0 40
D DB1 20 DBLK
.MODEL DBLK D(IS=1E-14 CJO=.1p RS=.1)
EDB 0 DB1 VB1 0 1
.ENDS FDS4685
*$
.MODEL grd D ( is = 5.36639E-006 n = 0.947898 rs = 0.0132545
+ eg = 0.663278 xti = 0.539193 t_measured = 27)
*$
.MODEL legd D (is = 1.00002E-015 n = 0.663355 rs = 0.00362975
+ eg = 0.400729 xti = 0.500158 t_measured = 27
+ cjo = 2.15315E-009 vj = 0.7 m = 0.539076 fc = 0.5
+ tt = 2.4663E-010 bv = 44 ibv = 0.1 af = 1 kf = 0)
*$
