* C:\Users\Ingwersen\Desktop\ASLK_PRO\docs\spice\Experiment_09\9_1_2.asc
VG1 VG1 0 PULSE(0 8 0 50u 50u 0 0 1000)
XU1 N002 VG1 vdd vss VF1 tl082
L1 N001 VF1 20m
C1 N001 0 1µ
R2 VF2 0 1k
XU3 vref VF2 vdd vss Vn002 tl082
VDD1 vdd 0 10
Vref3 vref 0 3v
VSS1 0 vss 10
R1 VF2 N001 1k
R4 VF1 N002 20k
R3 N002 Vn002 1k
.inc tl082.cir
.tran 0.01
.backanno
.end
